US08084449B2
A mixture of N-[(3-bromo-4-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (370 mg, 0.579 mmol), 1,1-dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate (233 mg, 0.579 mmol), Na2CO3 (184 mg, 1.738 mmol) and PdCl2(dppf) (42.4 mg, 0.058 mmol) was diluted in a mixture of 1,4-dioxane (3 mL) and water (1 mL) in a 2-5 mL biotage microwave reaction tube. The mixture was degassed by bubbling argon through it for 5 minutes and it was then heated in a Biotage microwave at normal absorption for 10 minutes at 100° C. The crude mixture was filtered through a PL-Thiol MP SPE+ and was then washed with ethyl acetate and water. The organic layer was concentrated under vacuum to obtain a crude residue. It was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 15 to 80% CH3CN in water at a flow rate of 20 mL/min. The product fractions were dried using a EZ2 GeneVac evaporator and then combined to give 1,1-dimethylethyl 4-[(5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-1-piperidinecarboxylate as a solid. It was re-dissolved in 25% TFA in DCM (2 mL) and stirred at room temperature for 2 h. Solvent was evaporated under a stream of nitrogen and then the residue was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 60% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and converted to the free base with 1 N NaOH and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}-2,6-pyridinedicarboxamide as a solid (92 mg, 21.7%). LC-MS m/z 733 (M+H)+, 0.87 min (ret time); 1H NMR (400 MHz, DMSO-d6) δ 0.99-1.05 (m, 2H) 1.20 (t, J=7.40 Hz, 3H) 1.32 (t, J=7.15 Hz, 3H) 1.42-1.61 (m, 5H) 1.83-1.96 (m, 2H) 2.32-2.36 (m, 2H) 2.45-2.50 (m, 2H) 2.82-2.89 (m, 2H) 2.97 (q, J=7.28 Hz, 2H) 3.50-3.58 (m, 2H) 3.81-3.88 (m, 2H) 4.06-4.17 (m, 1H) 4.31 (q, J=7.19 Hz, 2H) 4.59-4.65 (m, 4H) 6.92 (d, J=7.53 Hz, 1H) 7.17 (d, J=7.28 Hz, 1H) 7.20-7.39 (m, 5H) 7.42-7.46 (m, 1H) 8.01 (s, 1H) 8.15-8.33 (m, 3H) 9.50 (t, J=6.27 Hz, 1H) 9.74 (t, J=6.27 Hz, 1H).

reactant | N-[(3-bromo-4-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 0.579 mmol, 370 mg | BrC=1C=C(C=CC1F)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C30H33BrFN7O3
reactant | 1,1-dimethylethyl 4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinecarboxylate | 0.579 mmol, 233 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)C | C23H36BNO4
reactant | Na2CO3 | 1.738 mmol, 184 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.058 mmol, 42.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1-dimethylethyl 4-[(5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-1-piperidinecarboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)F)CC | C47H57FN8O5
